US07407961B2
3-Amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile (58 mg) was dissolved in DMF (1 ml). To the solution were added 1M MeI solution in DMF (0.22 ml) and 0.1M t-BuOK solution in DMF (2.2 ml). The mixture was stirred at 20-30° C. for 2 hours. The reaction mixture was portioned EtOAc and water. The organic layer was separated. The aqueous layer was extracted with EtOAc. The combined organic solution was washed with brine and dried over MgSO4. Evaporation of solvent gave oily residue. The above residue was purified by chromatography on silica gel (EtOAc only-EtOAc:MeOH=93:7, v/v) to give 3-amino-6-(1-methyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile, which was crystallized from EtOAc (18 mg).

reactant | 3-Amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile | 58 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CNC(C=C1)=O)C#N | C16H11N5O
reactant | MeI | 1M | CI | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.22 ml | CN(C)C=O | C3H7NO
solvent | t-BuOK | 0.1M | CC(C)(C)[O-].[K+]
solvent | DMF | 2.2 ml | CN(C)C=O | C3H7NO
product | 3-amino-6-(1-methyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CN(C(C=C1)=O)C)C#N | C17H13N5O
